US08912339B2
Another embodiment of the present disclosure includes a method of forming 2-(4-chloro-2-fluro-3-methoxylphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane that comprises contacting 2-chloro-6-fluoroanisole with n-butyl lithium to form 6-chloro-2-fluoro-3-lithioanisole. The 6-chloro-2-fluoro-3-lithioanisole may be contacted with trimethyl borate to form dimethyl 4-chloro-2-fluoro-3-methoxyphenylboronate. The dimethyl 4-chloro-2-fluoro-3-methoxyphenylboronate may be reacted with aqueous potassium hydroxide to form potassium (4-chloro-2-fluoro-3-methoxyphenyl)trihydroxyborate. The potassium (4-chloro-2-fluoro-3-methoxyphenyl)trihydroxyborate then may be reacted with aqueous hydrochloric acid to form 4-chloro-2-fluoro-3-methoxyphenylboronic acid. The 4-chloro-2-fluoro-3-methoxyphenylboronic acid may be reacted with 2,3-dimethyl-2,3-butanediol.

reactant | dimethyl 4-chloro-2-fluoro-3-methoxyphenylboronate | ClC1=C(C(=C(C=C1)B(OC)OC)F)OC | C9H11BClFO3
reactant | potassium hydroxide | [OH-].[K+]
product | potassium (4-chloro-2-fluoro-3-methoxyphenyl)trihydroxyborate | ClC1=C(C(=C(C=C1)[B-](O)(O)O)F)OC.[K+] | InChI=1S/C7H8BClFO4.K/c1-14-7-5(9)3-2-4(6(7)10)8(11,12)13;/h2-3,11-13H,1H3;/q-1;+1
